data/mechanisms/records/IMS8-EQ8.66.json
{"mechanism_id": "IMS8-EQ8.66", "species": [{"species_id": "cycloalkanol_radical_cation", "mapped_smiles": "[OH+:1][CH:2]1[CH:3]([1H:8])[CH2:4][CH2:5][CH2:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_oxocarbenium_distonic_ion", "mapped_smiles": "[OH+:1]=[CH:2][CH:3]([1H:8])[CH2:4][CH2:5][CH2:6][CH2:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_enol_radical_cation", "mapped_smiles": "[OH+:1][CH:2]=[CH:3][CH2:4][CH2:5][CH2:6][CH2:7][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cycloalkanol_radical_cation"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_oxocarbenium_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["ring_opened_enol_radical_cation"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rh_to_enol_ion", "from_state": "state_ring_opened", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 8]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_ring_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 188, "equation": "8.66", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.75, "curator_note": "First transformation of Equation 8.66, labelled '(alpha)' over a plain straight reaction arrow. GENERIC SCHEME: the page draws an alicyclic alcohol whose ring is closed by a curl (a polymethylene bridge of unspecified length); the surrounding text (page 187) covers cycloalkyl-OH compounds of five- to at least eight-membered rings. INSTANTIATION: cyclohexanol (6-ring, M+. m/z 100.088), chosen to match the six-membered middle column of Equation 8.65 on the facing page; every m/z in this record derives from that curator-chosen instantiation and is NOT printed by the book. Atom maps: 1 = O, 2 = the carbinol carbon C1, 3 = the ring carbon C2 that carries the transferred H (map 8), 4-6 = the bridge carbons C3-C5, 7 = the ring CH2 (C6) whose bond to C1 is cleaved. The molecular ion is n-ionized at oxygen ('+.' drawn over the HO group), and alpha-cleavage of the C1-C6 ring bond forms the O=C1 head, leaving the CH2 radical terminus. Book draws 0 arcs for this step; NO move is drawn - moves <1,2,3> (the O odd electron into the forming O=C1 pi bond, one C1-C6 sigma electron into that same pi bond, and the implicit homolysis hook putting the other C1-C6 electron on C6) are all curator-supplied and required for electron balance (not drawn on the page). RESONANCE / DRAWN-STRUCTURE DISCLOSURE: the page draws this intermediate in the CARBENIUM resonance form - a plain HO- single bond with '+' written under the carbinol carbon and '.' on the CH2 - and draws the C1...C6 bond as a DOTTED, incompletely dissociated bond (that is the whole point of the equation: 'the C-C bond alpha to the heteroatom does not fully dissociate before the H transfer; the incipient -CH2. radical can remain weakly bound to the charged heteroatom functional group'). Per convention (C) one localized form is encoded consistently, and the oxocarbenium partner HO+=CH- is used here so the arrows balance; the residual weak C1...C6 interaction the book dots in is NOT encoded as a bond. The ring-opened species is still a single connected molecule (the chain C1-C2-C3-C4-C5-C6 survives), so it is a legitimate mapped_smiles species."}, {"evidence_id": "ev_step_rh_to_enol_ion", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rh_to_enol_ion", "support_type": "textbook_proposed", "locator": {"page": 188, "equation": "8.66", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.75, "curator_note": "Second transformation of Equation 8.66, labelled 'rH': the H on the ring carbon adjacent to the carbinol carbon (map 8 on atom 3) is transferred to the CH2 radical terminus (atom 7, which becomes CH3), the C1=C2 double bond forms, and the charge/odd electron end up on oxygen - the page draws the product as HO(+.)-CH=CH-...-CH3, an acyclic enol radical cation that is an ISOMER of the molecular ion (no mass is lost in Equation 8.66). Book draws 1 arc for this step: a single fishhook running from the transferred H down onto the .CH2 terminus; that arc is move <2> (one electron of the C2-H bond travelling with the H into the new C6-H bond). Moves <1,3,4,5> are implicit and required for electron balance (not drawn on the page): <1> the C6 odd electron into the new C6-H bond, <3> the other C2-H electron into the forming C1=C2 pi bond, <4> one electron of the O=C1 pi bond into that same C1=C2 bond, and <5> the other O=C1 pi electron back onto oxygen, regenerating the O(+.) the book draws on the product. The 1,5-H transfer from C3 to C7 (donor and acceptor are four bonds apart along C3-C4-C5-C6-C7; an earlier version of this note said '1,4-H transfer from C2 to C6', which mis-stated both the shift order and the atom maps - the encoded moves are bond[3,8]->bond[7,8]) is geometrically possible only because of the residual weak C1...C6 bonding the book dots into the intermediate; that non-covalent contact is disclosed here and not encoded."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_enol_ion", "species_id": "ring_opened_enol_radical_cation", "step_id": "step_rh_to_enol_ion", "observed_mz": 100.0883, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
